US05288743
A suspension of N-acetyl-4-(pyrid-2-ylmethoxy)aniline (116 g; 480 mmol), prepared as in step 1, in 1000 mL 95% ethanol and 130 mL 10M aqueous KOH was refluxed for 2 days. The reaction was concentrated and diluted with water. The mixture was extracted with ethyl acetate. The extracts were dried over magnesium sulfate and concentrated to give 4-(pyrid-2-ylmethoxy)aniline as a brown oil.

reactant | N-acetyl-4-(pyrid-2-ylmethoxy)aniline | 480 mmol, 116 g | C(C)(=O)NC1=CC=C(C=C1)OCC1=NC=CC=C1 | C14H14N2O2
reactant | KOH | 10M, 130 mL | [OH-].[K+]
solvent | ethanol | 1000 mL | C(C)O | C2H6O
product | 4-(pyrid-2-ylmethoxy)aniline | N1=C(C=CC=C1)COC1=CC=C(N)C=C1 | C12H12N2O
